US04868313
2-Methylpropyl 3-carbamoylmethyl-Beta-hydroxy2-(1-methylethyl)-4-oxo-1-imidazolidinebutanoate
A solution of 1.91 g (0.01 mol) of glycylglycinamide acetate and 0.72 g (0.01 mol) of isobutyraldehyde in 40 ml of methanol was stirred for 24 hours at room temperature. The solvent was evaporated under reduced pressure and the residue was dissolved in 30 ml of isopropanol and treated with 0.106 g of sodium carbonate, 1.8 g (0.0115 mol) of 2-methylpropyl 3,4-epoxybutanoate and 2 drops of water. The mixture was refluxed for 36 hours. After evaporation of the solvent the residue was chromatographed on a silica gel column, eluting with dichloromethane/methanol 9:1. The title compound (0.48 g) was constituted by two diastereoisomers.

reactant | glycylglycinamide acetate | 0.01 mol, 1.91 g | C(C)(=O)O.NCC(=O)NCC(=O)N
reactant | isobutyraldehyde | 0.01 mol, 0.72 g | C(C(C)C)=O | C4H8O
reactant | sodium carbonate | 0.106 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-methylpropyl 3,4-epoxybutanoate | 0.0115 mol, 1.8 g | O1C(CC(=O)OCC(C)C)C1 | C8H14O3
solvent | methanol | 40 ml | CO | CH4O
catalyst | water | 2 drops | O | H2O
product | 2-Methylpropyl 3-carbamoylmethyl-Beta-hydroxy2-(1-methylethyl)-4-oxo-1-imidazolidinebutanoate | C(N)(=O)CN1C(N(CC1=O)CC(CC(=O)OCC(C)C)O)C(C)C | C16H29N3O5
